US07754745B2
Step 3: 5-Methyl-3-(2-{3-[2-(trifluoromethyl)phenoxy]pyrrolidin-1-yl}-1,3-thiazol-5-yl)-1,2,4-oxadiazole
To N′-hydroxy-2-{3-[2-(trifluoromethyl)phenoxy]pyrrolidin-1-yl}-1,3-thiazole-5-carboximidamide (190 mg, 0.51 mmol) in pyridine (1.5 mL) at rt was added acetic anhydride (48 μL, 0.51 mmol) and heated at 100° C. for 4 h. After cooling, the reaction mixture was diluted with water, acidified with 1 N HCl (20 mL) and extracted with EtOAc. The EtOAc layer was washed with diluted brine, dried (Na2SO4) and concentrated. Combi-Flash chromatography (10 g, 50-100% EtOAc in hexanes in 20 min, 20 mL/min, 15 mL/fraction) gave a white solid which was triturated with Et2O to give the title compound as a white powder. 1H NMR (400 MHz, acetone-d6): δ 7.81 (s, 1 H), 7.71-7.65 (m, 2 H), 7.41 (d, 1 H), 7.17 (t, 1 H), 5.52 (s, 1 H), 3.98 (m, 1 H), 3.84-3.67 (m, 3 H), 2.61 (s, 3 H), 2.60-2.43 (m, 2 H). MS (+ESI) m/z 397 (MH+).

reactant | N′-hydroxy-2-{3-[2-(trifluoromethyl)phenoxy]pyrrolidin-1-yl}-1,3-thiazole-5-carboximidamide | 0.51 mmol, 190 mg | ON=C(N)C1=CN=C(S1)N1CC(CC1)OC1=C(C=CC=C1)C(F)(F)F | C15H15F3N4O2S
reactant | acetic anhydride | 0.51 mmol, 48 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | HCl | 1 N, 20 mL | Cl | ClH
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 5-Methyl-3-(2-{3-[2-(trifluoromethyl)phenoxy]pyrrolidin-1-yl}-1,3-thiazol-5-yl)-1,2,4-oxadiazole | CC1=NC(=NO1)C1=CN=C(S1)N1CC(CC1)OC1=C(C=CC=C1)C(F)(F)F | C17H15F3N4O2S
